US08349865B2
Method A, Step 6: 5-(Cyclopropylamino)-9-fluorobenzo[c]-2,6-naphthyridin-1(2H)-one
To a solution of 1,5-dichloro-9-fluorobenzo[c]-2,6-naphthyridine (40 mg, 0.15 mmol) in DMA (1.5 mL) was added cyclopropylamine (42.2 μl, 0.60 mmol) and the solution was heated to 100° C. for 30 min. The reaction mixture was cooled to room temperature and added to ethyl acetate (50 mL). The organic layer was washed with aqueous sodium hydrogen carbonate (saturated, 50 mL) and brine (50 mL). The combined organic extracts were dried over sodium sulfate and concentrated under reduced pressure to afford the crude mixture as a yellow oil. The oil was dissolved in THF followed by the addition of hydrochloric acid (2 mL, 12.0 mmol, 6.0 M). The mixture was then refluxed at 100° C. for 3 hr. After cooling to room temperature, the reaction mixture was added to aqueous sodium hydrogen carbonate (saturated, 50 mL). The aqueous layer was extracted with dichloromethane (2×50 mL). The combined organic extracts were washed with brine (50 mL), dried over sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in water and DMSO and purified by preparative HPLC Reverse phase (C-18; eluting with acetonitrile/water+0.05% TFA), which afforded the title compound as a yellow solid.

reactant | 1,5-dichloro-9-fluorobenzo[c]-2,6-naphthyridine | 0.15 mmol, 40 mg | ClC1=C2C3=C(N=C(C2=CC=N1)Cl)C=CC(=C3)F | C12H5Cl2FN2
reactant | cyclopropylamine | 0.60 mmol, 42.2 μl | C1(CC1)N | C3H7N
reactant | hydrochloric acid | 12.0 mmol, 6.0 M, 2 mL | Cl | ClH
reactant | sodium hydrogen carbonate | 50 mL | C(O)([O-])=O.[Na+]
solvent | DMA | 1.5 mL | CC(=O)N(C)C | C4H9NO
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 5-(Cyclopropylamino)-9-fluorobenzo[c]-2,6-naphthyridin-1(2H)-one | C1(CC1)NC1=NC2=C(C=3C(NC=CC13)=O)C=C(C=C2)F | C15H12FN3O
